* tb_top_dc_reg.spice — Top-Level DC Regulation Test
* PVDD 5V LDO Regulator — Block 10
*
* Test: BVDD=7V, measure PVDD at Iload = 0, 1mA, 10mA, 50mA
* All 6 fixes applied

* ============================================================
* PDK Models
* ============================================================
.param mc_mm_switch = 0
.param MC_MM_SWITCH = 0

.subckt sky130_fd_pr__model__parasitic__res_po r0 r1 sub w=1 l=1
c0 r0 sub {0.1e-15*w*l}
c1 r1 sub {0.1e-15*w*l}
.ends sky130_fd_pr__model__parasitic__res_po

.lib "../sky130.lib.spice" tt

.include "/home/ubuntu/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.tech/ngspice/parameters/invariant.spice"
.include "/home/ubuntu/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_01v8__tt.pm3.spice"
.include "/home/ubuntu/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_01v8__tt.corner.spice"

* ============================================================
* Include all block design files
* ============================================================
.include ../00_error_amp/design.cir
.include ../01_pass_device/design.cir
.include ../02_feedback_network/design.cir
.include ../03_compensation/design.cir
.include ../04_current_limiter/design.cir
.include ../05_uv_ov_comparators/design.cir
.include ../06_level_shifter/design.cir
.include ../07_zener_clamp/design.cir
.include ../08_mode_control/design.cir
.include ../09_startup/design.cir

* ============================================================
* Block instantiation — flat wiring (matches design.cir)
* ============================================================
XM_pass gate bvdd pvdd pass_device

* FIX 1: Soft-start
Rss avbg vref_ss 100k
Css vref_ss 0 1n

XEA vref_ss vfb ea_out pvdd 0 ibias bvdd bvdd error_amp
XFB pvdd vfb 0 feedback_network

XCOMP ea_out pvdd 0 compensation

XILIM gate bvdd pvdd 0 ilim_flag current_limiter
XUV pvdd avbg uv_flag svdd 0 uvov_en uv_comparator
XOV pvdd avbg ov_flag svdd 0 uvov_en ov_comparator
XZC pvdd 0 zener_clamp
XMC bvdd pvdd svdd 0 en_ret bypass_en mc_ea_en ref_sel uvov_en ilim_en pass_off mode_control

XSU bvdd pvdd gate 0 avbg startup_done bvdd ea_out startup

XLS_EN en en_bvdd bvdd svdd 0 level_shifter_up

* FIX 2: Output caps (200pF + 100nF + 1µF external bypass)
Cload pvdd 0 200e-12
Cout_big pvdd 0 100n
Cout_ext pvdd 0 1u

* ============================================================
* Stimuli
* ============================================================
Vbvdd bvdd 0 PWL(0 0 10u 7 200m 7)
Vavbg avbg 0 1.226
Ibias ibias 0 DC 1u
Vsvdd svdd 0 2.2
Ven en 0 PWL(0 0 0.5u 0 1u 2.2)
Ven_ret en_ret 0 0

* Load: 0mA for 40ms (startup + settle), then 1/10/50mA steps
Iload pvdd 0 PWL(0 0 40m 0 40.01m 1m 50m 1m 50.01m 10m 60m 10m 60.01m 50m 70m 50m)

* ============================================================
* Simulation
* ============================================================
.option reltol=1e-4 abstol=1e-12 vntol=1e-6
.option method=gear maxord=2
.option itl1=500 itl2=500 itl4=500

.ic V(pvdd)=0 V(bvdd)=0
.tran 5u 72m uic

* ============================================================
* Measurements
* ============================================================
.meas tran v_0ma avg V(pvdd) from=35m to=40m
.meas tran v_1ma avg V(pvdd) from=45m to=50m
.meas tran v_10ma avg V(pvdd) from=55m to=60m
.meas tran v_50ma avg V(pvdd) from=65m to=70m
.meas tran t_start WHEN V(pvdd)=4.9 RISE=1
.meas tran pvdd_peak MAX V(pvdd) from=0 to=40m

.control
run
quit
.endc

.end
